behav-568  74ALS568a  74F568  74LS568

* ----------------------------------------------------------- 74ALS568A ------
*  Synchronous 4-Bit Up/Down Binary Counters With 3-State Outputs
*
*  The ALS/AS Logic Data Book, 1986, TI Pages 2-425 to 2-433
*  bss    5/3/94
*
.SUBCKT 74ALS568A GBAR U/DB CLK ENTBAR ENPBAR SCLRBAR LOADBAR ACLRBAR 
+     A B C D CCOBAR RCOBAR QA QB QC QD
+     optional:  DPWR=$G_DPWR DGND=$G_DGND
+     params:  MNTYMXDLY=0 IO_LEVEL=0

U1 dff(4) DPWR DGND
+     $D_HI ACLRBAR CLK
+     DA DB DC DD
+     QA_O QB_O QC_O QD_O
+     QABAR QBBAR QCBAR QDBAR
+     D0_EFF IO_ALS00 MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U2LOG LOGICEXP(18,6) DPWR DGND
+     U/DB CLK ENTBAR ENPBAR SCLRBAR LOADBAR A B C D
+     QA_O QB_O QC_O QD_O QABAR QBBAR QCBAR QDBAR
+     DA DB DC DD RCOBAR_O CCOBAR_O
+     D0_GATE IO_ALS00 MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+
+  LOGIC:
+     clkbar = {~CLK}
+     sclr = {~SCLRBAR}
+     ub/d = {~U/DB}
+     ent = {~ENTBAR}
+     count = {~(ENTBAR | ENPBAR)}
+     sync2 = {~(sclr | LOADBAR)}
+     sync1 = {~(ENTBAR | ENPBAR | sclr | sync2)}
+     sync3 = {(SCLRBAR & LOADBAR)}
+     fba = {~((QABAR & U/DB) | (QA_O & ub/d))}
+     fbb = {~((QBBAR & U/DB) | (QB_O & ub/d))}
+     fbc = {~((QCBAR & U/DB) | (QC_O & ub/d))}
+     fbd = {~((QDBAR & U/DB) | (QD_O & ub/d))}
+     nand1 = {~(U/DB & fbd)}
+     nand2 = {~(QCBAR & ub/d & QDBAR)}
+     and1a = {(A & sync2)}
+     and2a = {((~sync1) & sync3 & QA_O)}
+     and3a = {((~(QA_O & sync3)) & sync1)}
+     DA = {and1a | and2a | and3a}
+     and1b = {(B & sync2)}
+     and2b = {((~(fba & sync1)) & sync3 & QB_O)}
+     and3b = {(fba & sync1 & nand2 & nand1 & QBBAR)}
+     DB = {and1b | and2b | and3b}
+     and1c = {(C & sync2)}
+     and2c = {((~(fba & fbb & sync1)) & sync3 & QC_O)}
+     and3c = {((~(QC_O & sync3)) & fbb & fba & sync1 & nand2)}
+     DC = {and1c | and2c | and3c}
+     and1d = {(D & sync2)}
+     and2d = {((~(fba & sync1)) & sync3 & QD_O)}
+     and3d = {((~(QD_O & sync3)) & fbc & fbb & fba & sync1)}
+     DD = {and1d | and2d | and3d}
+     RCOBAR_O = {~((U/DB & fbd & fba & ent) | (ent & fba & fbb & fbc & fbd & ub/d))}
+     rco = {~RCOBAR_O}
+     CCOBAR_O = {~(clkbar & count & rco)}

U3DLY PINDLY(6,1,5) DPWR DGND
+     QA_O QB_O QC_O QD_O RCOBAR_O CCOBAR_O
+     GBAR
+     CLK U/DB ENTBAR ENPBAR ACLRBAR
+     QA QB QC QD RCOBAR CCOBAR
+     IO_ALS00 MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+
+  BOOLEAN:
+     CLOCK = {CHANGED_LH(CLK,0)}
+     CCK1 = {CHANGED(CLK,0)}
+     UPDOWN = {CHANGED(U/DB,0)}
+     ENABT = {CHANGED(ENTBAR,0)}
+     ENABP = {CHANGED(ENPBAR,0)}
+     CLEAR = {CHANGED_HL(ACLRBAR,0)}
+
+  TRISTATE:
+     ENABLE LO=GBAR
+     QA QB QC QD = {
+       CASE(
+         CLEAR & TRN_HL, DELAY(9ns,-1,20ns),
+         CLOCK & TRN_LH, DELAY(4ns,-1,13ns),
+         CLOCK & TRN_HL, DELAY(7ns,-1,16ns),
+         TRN_ZH, DELAY(6ns,-1,18ns),
+         TRN_ZL, DELAY(6ns,-1,24ns),
+         TRN_HZ, DELAY(1ns,-1,10ns),
+         TRN_LZ, DELAY(3ns,-1,13ns),
+         DELAY(10ns,-1,25ns))}
+
+  PINDLY:
+     RCOBAR = {
+       CASE(
+         CLOCK & TRN_LH, DELAY(12ns,-1,28ns),
+         CLOCK & TRN_HL, DELAY(10ns,-1,19ns),
+         UPDOWN & TRN_LH, DELAY(9ns,-1,23ns),
+         UPDOWN & TRN_HL, DELAY(9ns,-1,19ns),
+         ENABT & TRN_LH, DELAY(6ns,-1,15ns),
+         ENABT & TRN_HL, DELAY(4ns,-1,13ns),
+         DELAY(13ns,-1,29ns))}
+
+     CCOBAR = {
+        CASE(
+         ENABT & TRN_LH, DELAY(5ns,-1,13ns),
+         ENABT & TRN_HL, DELAY(9ns,-1,23ns),
+         CCK1 & TRN_LH, DELAY(5ns,-1,13ns),
+         CCK1 & TRN_HL, DELAY(6ns,-1,25ns),
+         ENABP & TRN_LH, DELAY(4ns,-1,12ns),
+         ENABP & TRN_HL, DELAY(5ns,-1,14ns),
+         DELAY(10ns,-1,26ns))}

U4CON CONSTRAINT(11) DPWR DGND
+     ACLRBAR LOADBAR CLK A B C D ENPBAR ENTBAR SCLRBAR U/DB
+     IO_ALS00 IO_LEVEL={IO_LEVEL}
+
+  FREQ:
+     NODE=CLK
+     MAXFREQ=20MEG
+
+  WIDTH:
+     NODE=CLK
+     MIN_HI=25ns
+     MIN_LO=25ns
+
+  WIDTH:
+     NODE=ACLRBAR
+     MIN_LO=15ns
+
+  WIDTH:
+     NODE=LOADBAR
+     MIN_LO=15ns
+
+  SETUP_HOLD:
+     CLOCK LH=CLK
+     DATA(4)=A B C D
+     SETUPTIME=20ns
+     WHEN={SCLRBAR!='0 | ACLRBAR!='0}
+
+  SETUP_HOLD:
+     CLOCK LH=CLK
+     DATA(2)=ENPBAR ENTBAR
+     SETUPTIME_HI=30ns
+     SETUPTIME_LO=20ns
+
+  SETUP_HOLD:
+     CLOCK LH=CLK
+     DATA(2)=SCLRBAR LOADBAR
+     SETUPTIME_LO=15ns
+     SETUPTIME_HI=30ns
+
+  SETUP_HOLD:
+     CLOCK LH=CLK
+     DATA(1)=U/DB
+     SETUPTIME=30ns
+
+  SETUP_HOLD:
+     CLOCK LH=CLK
+     DATA(1)=ACLRBAR
+     SETUPTIME_HI=10ns

.ENDS 74ALS568A
*
*
* ----------------------------------------------------------- 74F568 ------
*  4-Bit Bidirectional Decade Counters With 3-State Outputs
*
*  The FAST TTL Logic Data Book, 1992, Philips Pages 562 to 572
*  bss    5/3/94
*	Left out the top AND gate in the feedback for the 2nd D flip-flop
*	or the logic would be wrong
*
.SUBCKT 74F568 OEBAR U/DB CP CETBAR CEPBAR SRBAR PEBAR MRBAR 
+     D0 D1 D2 D3 CCBAR TCBAR Q0 Q1 Q2 Q3
+     optional:  DPWR=$G_DPWR DGND=$G_DGND
+     params:  MNTYMXDLY=0 IO_LEVEL=0

U1 dff(4) DPWR DGND
+     $D_HI MRBAR CP
+     DA DB DC DD
+     Q0_O Q1_O Q2_O Q3_O
+     Q0BAR Q1BAR Q2BAR Q3BAR
+     D0_EFF IO_F MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U2LOG LOGICEXP(18,6) DPWR DGND
+     U/DB CP CETBAR CEPBAR SRBAR PEBAR D0 D1 D2 D3
+     Q0_O Q1_O Q2_O Q3_O Q0BAR Q1BAR Q2BAR Q3BAR
+     DA DB DC DD TCBAR_O CCBAR_O
+     D0_GATE IO_F MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+
+  LOGIC:
+     clkbar = {~CP}
+     ub/d = {~U/DB}
+     ent = {~CETBAR}
+     cnt = {~(SRBAR & PEBAR)}
+     cntbar = {~cnt}
+     count = {~(CETBAR | CEPBAR | cnt)}
+     nand0 = {~(D0 & SRBAR)}
+     nand1 = {~(D1 & SRBAR)}
+     nand2 = {~(D2 & SRBAR)}
+     nand3 = {~(D3 & SRBAR)}
+     fb1 = {(U/DB | ub/d)}
*	Logic added to fb2 and fb3 so C would go to 5 on a count down
+     fb2 = {((Q3BAR & Q0_O & U/DB) | (Q3_O & Q2BAR & Q1BAR & Q0BAR & ub/d) |
+             (Q0BAR & Q1BAR & Q3BAR & Q2_O & ub/d) | (Q1_O & Q0BAR & ub/d))}
+     fb3 = {((Q1_O & Q0_O & U/DB) | (Q2BAR & Q1BAR & Q0BAR & Q3_O & ub/d) | 
+             (Q0BAR & Q1BAR & Q2_O & Q3BAR & ub/d))}
+     fb4 = {((Q0_O & Q3_O & U/DB) | (Q2_O & Q1_O & Q0_O & U/DB) |
+             (Q2BAR & Q1BAR & Q0BAR & ub/d) | (Q0BAR & ub/d & Q3_O))}
+     TCBAR_O = {~((Q3_O & Q2BAR & Q1BAR & U/DB & Q0_O & ent) |
+             (ent & Q0BAR & Q1BAR & Q2BAR & Q3BAR & ub/d))}
+     tc = {~TCBAR_O}
+     CCBAR_O = {~(tc & clkbar & count)}
+     xor0 = {(~(fb1 & count)) ^ Q0_O}
+     xor1 = {(~(fb2 & count)) ^ Q1_O}
+     xor2 = {(~(fb3 & count)) ^ Q2_O}
+     xor3 = {(~(fb4 & count)) ^ Q3_O}
+     DA = {~((xor0 & cntbar) | (nand0 & cnt))}
+     DB = {~((xor1 & cntbar) | (nand1 & cnt))}
+     DC = {~((xor2 & cntbar) | (nand2 & cnt))}
+     DD = {~((xor3 & cntbar) | (nand3 & cnt))}

U3DLY PINDLY(6,1,7) DPWR DGND
+     Q0_O Q1_O Q2_O Q3_O TCBAR_O CCBAR_O
+     OEBAR
+     CP U/DB CETBAR CEPBAR MRBAR SRBAR PEBAR
+     Q0 Q1 Q2 Q3 TCBAR CCBAR
+     IO_F MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+
+  BOOLEAN:
+     CLOCK = {CHANGED_LH(CP,0)}
+     CCK1 = {CHANGED(CP,0)}
+     UPDOWN = {CHANGED(U/DB,0)}
+     ENABT = {CHANGED(CETBAR,0)}
+     ENABP = {CHANGED(CEPBAR,0)}
+     CLEAR = {CHANGED_HL(MRBAR,0)}
+     SYCLR = {CHANGED(SRBAR,0)}
+     LOAD = {CHANGED(PEBAR,0)}
+
+  TRISTATE:
+     ENABLE LO=OEBAR
+     Q0 Q1 Q2 Q3 = {
+       CASE(
+         CLEAR & TRN_HL, DELAY(6ns,8ns,11ns),
+         CLOCK & TRN_LH, DELAY(3ns,6ns,9.5ns),
+         CLOCK & TRN_HL, DELAY(4ns,7.5ns,11ns),
+         TRN_ZH, DELAY(2ns,4ns,7ns),
+         TRN_ZL, DELAY(4.5ns,6.5ns,9.5ns),
+         TRN_HZ, DELAY(1.5ns,3.5ns,6.5ns),
+         TRN_LZ, DELAY(1.5ns,3.5ns,6ns),
+         DELAY(7ns,9ns,12ns))}
+
+  PINDLY:
+     TCBAR = {
+       CASE(
+         CLEAR, DELAY(8ns,11ns,15ns),
+         CLOCK & TRN_LH, DELAY(5.5ns,10ns,15ns),
+         CLOCK & TRN_HL, DELAY(4ns,7.5ns,11ns),
+         UPDOWN & TRN_LH, DELAY(2.5ns,5ns,9ns),
+         UPDOWN & TRN_HL, DELAY(5ns,10ns,15ns),
+         ENABT & TRN_LH, DELAY(1.5ns,3ns,6ns),
+         ENABT & TRN_HL, DELAY(2.5ns,5ns,8ns),
+         DELAY(9ns,12ns,16ns))}
+
+     CCBAR = {
+        CASE(
+         CLEAR, DELAY(8ns,11ns,15ns),
+         UPDOWN & TRN_LH, DELAY(4.5ns,9ns,12ns),
+         UPDOWN & TRN_HL, DELAY(5ns,11ns,16ns),
+         (ENABT | ENABP) & TRN_LH, DELAY(2ns,4ns,7ns),
+         (ENABT | ENABP) & TRN_HL, DELAY(3.5ns,5.5ns,9ns),
+         CCK1 & TRN_LH, DELAY(2.5ns,4.5ns,7.5ns),
+         CCK1 & TRN_HL, DELAY(2ns,4ns,6.5ns),
+         SYCLR & TRN_LH, DELAY(5.5ns,8ns,11ns),
+         SYCLR & TRN_HL, DELAY(7.5ns,9.5ns,12ns),
+         LOAD & TRN_LH, DELAY(3ns,5ns,8ns),
+         LOAD & TRN_HL, DELAY(4ns,6ns,8.5ns),
+         DELAY(9ns,12ns,16ns))}

U4CON CONSTRAINT(11) DPWR DGND
+     MRBAR PEBAR CP D0 D1 D2 D3 CEPBAR CETBAR SRBAR U/DB
+     IO_F IO_LEVEL={IO_LEVEL}
+
+  WIDTH:
+     NODE=CP
+     MIN_HI=8ns
+     MIN_LO=6ns
+
+  WIDTH:
+     NODE=MRBAR
+     MIN_LO=5ns
+
+  SETUP_HOLD:
+     CLOCK LH=CP
+     DATA(4)=D0 D1 D2 D3
+     SETUPTIME=4.5ns
+     HOLDTIME=2.5ns
+     WHEN={SRBAR!='0 | MRBAR!='0}
+
+  SETUP_HOLD:
+     CLOCK LH=CP
+     DATA(2)=CEPBAR CETBAR
+     SETUPTIME=6ns
+
+  SETUP_HOLD:
+     CLOCK LH=CP
+     DATA(2)=SRBAR PEBAR
+     SETUPTIME=9ns
+
+  SETUP_HOLD:
+     CLOCK LH=CP
+     DATA(1)=U/DB
+     SETUPTIME_HI=12.5ns
+     SETUPTIME_LO=17.5ns
+
+  SETUP_HOLD:
+     CLOCK LH=CP
+     DATA(1)=MRBAR
+     SETUPTIME_HI=7ns

.ENDS 74F568

*-----------------------------------------------------------74LS568------

* Four-Bit Up/Down Counters with Tri-State Outputs
* Motorola Schottky TTL Data, 1983, pages 4-321 to 4-325
* jat 8/14/96

.SUBCKT 74LS568 LOADBAR A B C D CEPBAR CETBAR U/DBAR CP YA YB YC YD RCOBAR
+ ACLRBAR SCLRBAR OEBAR CCO
+ OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+ PARAMS: MNTYMXDLY=0 IO_LEVEL=0

U1 LOGICEXP(18,6) DPWR DGND
+ A B C D SCLRBAR LOADBAR CEPBAR CETBAR CP U/DBAR Q0 Q1 Q2 Q3 Q0BAR Q1BAR
+ Q2BAR Q3BAR
+ D0 D1 D2 D3 RCOBARO CCOO
+ D0_GATE IO_LS MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+ LOGIC:
+  CE = {~(CETBAR | CEPBAR)}
+  X1 = {~(Q0BAR & CE)}
+  X2 = {~(Q2BAR & Q3BAR)}
+  X3 = {~(Q0 & CE)}
+  X4 = {~(Q1 & Q0 & CE)}
+  X5 = {~(Q1BAR & Q0BAR & CE)}
+  X6 = {~(Q0BAR & CE)}
+  X7 = {~(Q0 & CE)}
+  D0 = {SCLRBAR & ((LOADBAR & ~CE & Q0) | (A & ~LOADBAR) | (CE & LOADBAR & Q0BAR))}
+  D1 = {SCLRBAR & ((X1 & LOADBAR & Q1 & ~U/DBAR) | (Q1BAR & X2 & ~U/DBAR & LOADBAR & Q0BAR & CE)
+      | (B & ~LOADBAR) | (Q1 & X3 & LOADBAR & U/DBAR) |
+        (Q1BAR & LOADBAR & U/DBAR & CE & Q0 & Q3BAR))}
+  D2 = {SCLRBAR & ((X4 & LOADBAR & U/DBAR & Q2) | (U/DBAR & LOADBAR & Q2BAR & Q1 & Q0 & CE) |
+        (C & ~LOADBAR) | (Q2 & X5 & LOADBAR & ~U/DBAR) |
+        (Q2BAR & ~U/DBAR & CE & LOADBAR & Q1BAR & Q0BAR & Q3))}
+  D3 = {SCLRBAR & ((X6 & LOADBAR & ~U/DBAR & Q3) | (~U/DBAR & LOADBAR & Q3BAR & Q2BAR & Q1BAR & Q0BAR & CE) |
+        (D & ~LOADBAR) | (Q3 & X7 & LOADBAR & U/DBAR) |
+        (Q3BAR & U/DBAR & CE & LOADBAR & Q0 & Q1 & Q2))}
+  RCOBARO = {~((~U/DBAR & ~CETBAR & Q0BAR & Q1BAR & Q2BAR & Q3BAR) |
+               (U/DBAR & ~CETBAR & Q0 & Q3))}
+  CCOO = {~(CE & ~RCOBARO & ~CP)}

U2 DFF(4) DPWR DGND
+ $D_HI ACLRBAR CP
+ D0 D1 D2 D3
+ Q0 Q1 Q2 Q3
+ Q0BAR Q1BAR Q2BAR Q3BAR
+ D0_EFF IO_LS MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

U3 PINDLY(6,1,5) DPWR DGND
+ Q0 Q1 Q2 Q3 RCOBARO CCOO
+ OEBAR
+ CP CETBAR U/DBAR CEPBAR ACLRBAR
+ YA YB YC YD RCOBAR CCO
+ IO_LS MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+ BOOLEAN:
+  EDGE = {CHANGED_LH(CP,0)}
+  DOWNEDGE = {CHANGED_HL(CP,0)}
+  T = {CHANGED(CETBAR,0)}
+  P = {CHANGED(CEPBAR,0)}
+  UPDOWN = {CHANGED(U/DBAR,0)}
+  ACLEAR = {CHANGED(ACLRBAR,0)}
+ TRISTATE:
+ ENABLE LO = OEBAR
+  YA YB YC YD = {
+    CASE(
+      TRN_ZH, DELAY(-1,10NS,16NS),
+      TRN_ZL, DELAY(-1,17NS,24NS),
+      TRN_HZ, DELAY(-1,20NS,25NS),
+      TRN_LZ, DELAY(-1,17NS,27NS),
+      ACLEAR & (TRN_LH | TRN_HL), DELAY(-1,21NS,32NS),
+      EDGE & TRN_LH, DELAY(-1,15NS,24NS),
+      EDGE & TRN_HL, DELAY(-1,23NS,35NS),
+      DELAY(-1,24NS,36NS))}
+ PINDLY:
+  RCOBAR = {
+    CASE(
+      T & TRN_LH, DELAY(-1,14NS,24NS),
+      T & TRN_HL, DELAY(-1,14NS,24NS),
+      UPDOWN & TRN_LH, DELAY(-1,20NS,30NS),
+      UPDOWN & TRN_HL, DELAY(-1,15NS,24NS),
+      EDGE & TRN_LH, DELAY(-1,25NS,40NS),
+      EDGE & TRN_HL, DELAY(-1,26NS,40NS),
+      DELAY(-1,27NS,41NS))}
+  CCO = {
+    CASE(
+      (T | P) & TRN_LH, DELAY(-1,12NS,20NS),
+      (T | P) & TRN_HL, DELAY(-1,20NS,30NS),
+      DOWNEDGE & TRN_LH, DELAY(-1,17NS,27NS),
+      DOWNEDGE & TRN_HL, DELAY(-1,26NS,40NS),
+      DELAY(-1,27NS,41NS))}

U4 CONSTRAINT(10) DPWR DGND
+ CP A B C D SCLRBAR LOADBAR U/DBAR CETBAR CEPBAR
+ IO_LS IO_LEVEL={IO_LEVEL}
+ FREQ:
+  NODE = CP
+  MAXFREQ = 25MEG
+ WIDTH:
+  NODE  = CP
+  MIN_LO = 30NS
+  MIN_HI = 30NS
+ SETUP_HOLD:
+  CLOCK LH = CP
+  DATA(5) = A B C D SCLRBAR
+  SETUPTIME = 20NS
+ SETUP_HOLD:
+  CLOCK LH = CP
+  DATA(1) = LOADBAR
+  SETUPTIME = 30NS
+ SETUP_HOLD:
+  CLOCK LH = CP
+  DATA(1) = U/DBAR
+  SETUPTIME = 50NS
+ SETUP_HOLD:
+  CLOCK LH = CP
+  DATA(2) = CETBAR CEPBAR
+  SETUPTIME = 32NS

.ENDS 74LS568


* .SUBCKT 74ALS568A GBAR U/DB CLK ENTBAR ENPBAR SCLRBAR LOADBAR ACLRBAR 
* +     A B C D CCOBAR RCOBAR QA QB QC QD
x1 gb ub clk etbar epbar sclrb loadb mclrb d0 d1 d2 d3 ccobar rcobar qa qb qc qd 74als568a

* .SUBCKT 74F568 OEBAR U/DB CP CETBAR CEPBAR SRBAR PEBAR MRBAR 
* +     D0 D1 D2 D3 CCBAR TCBAR Q0 Q1 Q2 Q3
x2 gb ub clk etbar epbar sclrb loadb mclrb d0 d1 d2 d3 ccbar tcbar q0 q1 q2 q3 74f568

* .SUBCKT 74LS568 LOADBAR A B C D CEPBAR CETBAR U/DBAR CP YA YB YC YD RCOBAR
* + ACLRBAR SCLRBAR OEBAR CCO
x3 loadb d0 d1 d2 d3 epbar etbar ub clk ya yb yc yd rbar mclrb sclrb gb cco 74ls568

a_1 [ loadb sclrb mclrb clk gb ub d0 d1 d2 d3 epbar etbar ] input_vec1
.model input_vec1 d_source(input_file = "behav-568.stim")

.tran 0.1ns 8us
.control
run
listing
* edisplay
* eprint qd qc qb qa q3 q2 q1 q0 ya yb yc yd
* save data to input directory
cd $inputdir 
eprvcd clk loadb d0 d1 d2 d3 qd qc qb qa q3 q2 q1 q0 ya yb yc yd > behav-568.vcd
* plotting the vcd file with GTKWave
if $oscompiled = 1 | $oscompiled = 8  ; MS Windows
  shell start gtkwave behav-568.vcd --script nggtk.tcl
else
  if $oscompiled = 7 ; macOS, manual tweaking required (mark, insert, Zoom Fit)
    shell open -a gtkwave behav-568.vcd
  else ; Linux and others
    shell gtkwave behav-568.vcd --script nggtk.tcl &
  end
end
quit
.endc
.end

